US06982278B2
{4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)ethoxy]-3-propylphenoxy}acetic acid ethyl ester
A solution of 4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]-3-propylphenol (0.37 g, 1.10 mmol) in dry DMF (4 mL) was cooled in an ice bath and treated with NaH (0.13 g, 3.3 mmol, 60% oil dispersion). After 10 min, ethyl bromoacetate (0.37 mL, 3.3 mmol) was added. The ice bath was removed, and the mixture was placed in an oil bath (T=85° C.). After 18 h, the reaction mixture was cooled and concentrated in vacuo. The residue was partitioned between EtOAc (70 mL) and water (40 mL). The organic layer was dried (Na2SO4) and concentrated. The crude product was purified by radial chromatography using 5% ethyl acetate in dichloromethane to give a white solid (0.34 g, 73%). 1H NMR (400 MHz, CDCl3), δ 7.97 (dd, J=7.8, 2.4 Hz, 2H), 7.41-7.39 (m, 3H), 6.77-6.73 (m, 2H), 6.61-6.63 (m, 1H, 4.54 (s, 1H), 4.28-4.24 (m, 2H), 2.96 (t, J=6.4 Hz, 2H), 2.50 (t, J=7.1 Hz, 2H), 2.37 (s, 3H), 1.51 (q, J=7.6 Hz, 2H), 1.31-1.29 (m, 5H), 0.84 (t, J=7.0 Hz, 3H); MS (FIA) m/e 424 (M+1).

reactant | 4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]-3-propylphenol | 1.10 mmol, 0.37 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=C(C=C(C=C1)O)CCC | C21H23NO3
reactant | NaH | 3.3 mmol, 0.13 g | [H-].[Na+]
reactant | ethyl bromoacetate | 3.3 mmol, 0.37 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | {4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)ethoxy]-3-propylphenoxy}acetic acid ethyl ester | 0.34 g, 73% | C(C)OC(COC1=CC(=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CCC)=O | C25H29NO5
